US08404719B2
To ethyl 2,4-dichloro-5-(chlorosulfonyl)benzoate (1 g, 3.15 mmol) in N,N-dimethylacetamide (10.5 mL) was added 2-fluoroaniline (1.215 mL, 12.60 mmol) dropwise over 1 minute at room temperature. The mixture was stirred at room temperature for 1 hour, and then it was diluted with ethyl acetate (35 mL). The organic solution was washed with 1 N HCl (2×13 mL) and saturated NaCl (13 mL). The organic layer was concentrated, ethanol (38 mL) was added, and the mixture concentrated to give ethyl 2,4-dichloro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate.

reactant | ethyl 2,4-dichloro-5-(chlorosulfonyl)benzoate | 3.15 mmol, 1 g | ClC1=C(C(=O)OCC)C=C(C(=C1)Cl)S(=O)(=O)Cl | C9H7Cl3O4S
reactant | 2-fluoroaniline | 12.60 mmol, 1.215 mL | FC1=C(N)C=CC=C1 | C6H6FN
solvent | N,N-dimethylacetamide | 10.5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2,4-dichloro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate | ClC1=C(C(=O)OCC)C=C(C(=C1)Cl)S(=O)(=O)NC1=C(C=CC=C1)F | C15H12Cl2FNO4S
